US07375101B2
7-Fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one
As illustrated in the scheme above and following General Procedure 4, 5-chloro-7-fluoro-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one (0.201 g, 0.887 mmol), Na2CO3 (0.0940 g, 0.887 mmol), PdCl2(dppf) (0.0362. g, 0.0443 mmol) and phenylboronic acid (0.108 g, 0.886 mmol) were combined and heated for 13 h. After workup, purification of the crude product by silica gel column chromatography (3:1 CH2Cl2:EtOAc) provided the title compound (0.180 g, 76%). 1H-NMR (CDCl3): δ 7.64-7.60 (m, 2H), 7.51-7.45 (m, 1H), 7.44-7.39 (m, 2H), 7.34 (dd, J=4.8 Hz, J=9.2 Hz, 1H), 7.31-7.25 (m, 1H), 7.02 (dd, J=2.8 Hz, J=8.8 Hz, 1H), 4.84 (d, J=10.8 Hz, 1H), 3.78 (d, J=10.8 Hz, 1H), 3.40 (s, 3H). MS (ESI) (M+H)+=269.

reactant | 5-chloro-7-fluoro-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.887 mmol, 0.201 g | ClC1=NCC(N(C2=C1C=C(C=C2)F)C)=O | C10H8ClFN2O
reactant | Na2CO3 | 0.887 mmol, 0.0940 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | phenylboronic acid | 0.886 mmol, 0.108 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | PdCl2(dppf) | 0.0443 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-Fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.180 g, 76% | FC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H13FN2O
